US07238720B2
b) 3-(2,4,6-Trimethylphenyl)thio-1-dimethylcarbamoyl-1H-1,2,4-triazole
To a mixture of 3-(2,4,6-trimethylphenyl)thio-1H-1,2,4-triazole (220 mg), anhydrous potassium carbonate (280 mg) and N,N-dimethylformamide (1 ml) was added N,N-dimethylcarbamoyl chloride (0.14 ml), and the reaction mixture was stirred at room temperature for 2 hours. The reaction solution was extracted with ethyl acetate-water. The organic layer was washed with water, followed by saturated aqueous sodium chloride solution, dried over anhydrous magnesium sulfate, and concentrated under reduced pressure. The residue was subjected to a silica-gel column chromatography with 10 to 15% (20% 2-propanol/ethyl acetate)/hexane to yield the title compound (276 mg).

reactant | 3-(2,4,6-trimethylphenyl)thio-1H-1,2,4-triazole | 220 mg | CC1=C(C(=CC(=C1)C)C)SC1=NNC=N1 | C11H13N3S
reactant | potassium carbonate | 280 mg | C([O-])([O-])=O.[K+].[K+]
reactant | N,N-dimethylcarbamoyl chloride | 0.14 ml | CN(C(=O)Cl)C | C3H6ClNO
solvent | N,N-dimethylformamide | 1 ml | CN(C=O)C | C3H7NO
product | 3-(2,4,6-Trimethylphenyl)thio-1-dimethylcarbamoyl-1H-1,2,4-triazole | 276 mg | CC1=C(C(=CC(=C1)C)C)SC1=NN(C=N1)C(N(C)C)=O | C14H18N4OS
